US05204370
1-(3-Diethylamino-2-Hydroxypropylamino)-4-(3-Chloro-2-Hydroxypropylamino)-9, 10-Anthracenedione Hydrochloride Salt (Compound 1a-1 in Table 1)
Concentrated HC1 (8 drops) was slowly added to a solution of 1-(3-diethylamino-2-hydroxypropylamino)-4-(3-chloro-2-hydroxypropylamino)-9, 10-anthracenedione (0.531 g, 2.36 mmol) in acetone-dichloromethane (50%, 15 mL). A color change from purple to red was observed. The solid was obtained by filtration, mp 106°-108° C., extremely hygroscopic. 1H NMR (D2O) δ 1.40 (t, J=7.3 Hz, 6H, CH3), 2.90 (m, 4H, CH2), 3.29 (m, 4H, CH2), 3.38 (m, 3H, CH2, CH), 3.73 (m, 3H, CH2, CH), 3.92 (broad, 1H, NH), 4.15 (broad, 1H, NH), 6.23 (s, 2H, ArH (2, 3)), 7.26 (m, 2H, ArH (6, 7)), 7.32 (m, 2H, ArH (5, 8)). Anal. Calcd for C24H30ClN 3 O4 2HCl 1.5 H2O: C, 51.48; H, 6.30; N, 7.50. Found: C, 51.70; H, 6.35; N, 7.41.

reactant | 1-(3-diethylamino-2-hydroxypropylamino)-4-(3-chloro-2-hydroxypropylamino)-9, 10-anthracenedione | 2.36 mmol, 0.531 g | C(C)N(CC(CNC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)NCC(CCl)O)O)CC | C24H30ClN3O4
reactant | H2O | O | H2O
solvent | acetone dichloromethane | 15 mL | CC(=O)C.ClCCl
product | 1-(3-Diethylamino-2-Hydroxypropylamino)-4-(3-Chloro-2-Hydroxypropylamino)-9, 10-Anthracenedione Hydrochloride Salt | Cl.C(C)N(CC(CNC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)NCC(CCl)O)O)CC | InChI=1S/C24H30ClN3O4.ClH/c1-3-28(4-2)14-16(30)13-27-20-10-9-19(26-12-15(29)11-25)21-22(20)24(32)18-8-6-5-7-17(18)23(21)31;/h5-10,15-16,26-27,29-30H,3-4,11-14H2,1-2H3;1H
